US08232312B2
[(1-acetyl-2,3-dihydro-1H-indol-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-acetic acid
40 mg [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetic acid are dissolved in 2 ml dichloromethane. 100 μl acetic anhydride are added and the mixture is stirred overnight at ambient temperature. The volatile constituents are eliminated in vacuo and the residue is purified by chromatography on silica gel with dichloromethane/methanol (99:1 to 85:15). The product thus obtained is extracted from diethyl ether/diisopropylether. The solid is suction filtered and dried in vacuo.

reactant | [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetic acid | 40 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCNC2=CC1)CC(=O)O | C16H14Cl2N2O4S
reactant | acetic anhydride | 100 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | [(1-acetyl-2,3-dihydro-1H-indol-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-acetic acid | C(C)(=O)N1CCC2=CC(=CC=C12)N(S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)CC(=O)O | C18H16Cl2N2O5S
